US04886834
N-[3,3-Bis(4-methoxyphenyl)allyl]benzensulfonamide
2.69 g of 3,3-bis-(4-methoxyphenyl)allylamine was dissolved in 5 ml of pyridine. To the obtained solution, 1.9 g of benzenesulfonyl chloride was added under icecooling and the mixture was stirred for five hours. After the completion of the reaction, the reaction mixture was dissolved in ethyl acetate and washed with 5% hydrochloric acid and a saturated saline solution successively. The crude product thus obtained was purified by silica gel chromatography in a conventional manner. Thus 3.6 g of the title compound was obtained in the form of a colorless oily product.

reactant | 3,3-bis-(4-methoxyphenyl)allylamine | 2.69 g | COC1=CC=C(C=C1)C(=CCN)C1=CC=C(C=C1)OC | C17H19NO2
reactant | benzenesulfonyl chloride | 1.9 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[3,3-Bis(4-methoxyphenyl)allyl]benzensulfonamide | 3.6 g | COC1=CC=C(C=C1)C(=CCNS(=O)(=O)C1=CC=CC=C1)C1=CC=C(C=C1)OC | C23H23NO4S
